US07276612B2
A solution of 5-methoxybenzofuran-2-carboxylic acid methyl ester (5.15 g, 25 mmol) in anhydrous methylene chloride (15 ml) was cooled to −40° under nitrogen atmosphere. Boron tribromide in CH2Cl2 (27 ml of 1.0 M) was added over 1 h using a syringe pump. The reaction mixture was allowed to warm to room temperature. After 16 h, the reaction mixture was cooled in an ice bath and quenched with MeOH (15 ml). The reaction mixture was poured into brine (100 ml) and extracted with EtOAc. The organic extracts were dried over anhydrous MgSO4, and the solvent was removed on rotary evaporator. The residue was triturated with hexane and the yellow solid was filtered and dissolved in anhydrous MeOH (30 ml). The solution was cooled in an ice bath and thionyl chloride (1.9 ml, 26 mmol) was added dropwise. After 72 h, water (100 ml) was added and solid was collected. Purification of the crude product on a 300 cm3 silica gel in a 5×15 cm plug using EtOAc provided 5-hydroxy-benzofuran-2-carboxylic acid methyl ester (4.53 g).

reactant | 5-methoxybenzofuran-2-carboxylic acid methyl ester | 25 mmol, 5.15 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)OC | C11H10O4
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | thionyl chloride | 26 mmol, 1.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 M, 27 ml | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-benzofuran-2-carboxylic acid methyl ester | 4.53 g | COC(=O)C=1OC2=C(C1)C=C(C=C2)O | C10H8O4
